US06660753B2
A mixture of methyl 3,5-dichlorobenzoate (14.66 g, 71.5 mmol), zinc cyanide (5.04 g, 42.9 mmol) zinc (dust, 0.21 g, 3.21 mmol), [1,1′Bis(diphenylphosphino)ferrocene] dichloropalladium(II), complex with dichloromethane (1:1) (1.3 g, 1.57 mmol) in N,N-dimethylformamide (70 mL) was heated at reflux for 5 hours. After cooling the reaction was diluted with ethyl acetate and extracted with water and brine. Silica gel chromatography afforded 2.34g (17%) methyl 2-chloro-5-cyanobenzoate.

reactant | methyl 3,5-dichlorobenzoate | 71.5 mmol, 14.66 g | ClC=1C=C(C(=O)OC)C=C(C1)Cl | C8H6Cl2O2
reactant | dichloromethane | 1.57 mmol, 1.3 g | ClCCl | CH2Cl2
reactant | N,N-dimethylformamide | 70 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc cyanide | 42.9 mmol, 5.04 g | [C-]#N.[Zn+2].[C-]#N
catalyst | [1,1′Bis(diphenylphosphino)ferrocene] dichloropalladium(II) | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | methyl 2-chloro-5-cyanobenzoate | 2.34g, 17% | ClC1=C(C(=O)OC)C=C(C=C1)C#N | C9H6ClNO2
